US06548494B1
6-(3-Dimethylaminomethyl-phenyl)-3,4-dihydro-2H-[1,4]diazepino[6,7,1-hi]indol-1-one
Using the reductive amination procedure described in Example 82, the title compound was synthesized from 3-(1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-6-yl)-benzaldehyde and dimethylamine in 87% yield as a white solid: mp 98-100° C.; 1H NMR (DMSO-d6) δ 2.18 (s, 6H), 3.47 (br s, 4H), 4.30-4.32 (m, 2H), 6.70 (s, 1H), 7.17 (t, 1H, J=6.0 Hz), 7.35-7.37 (m, 1H), 7.43-7.50 (m, 3H), 7.78 (d, 1H, J=6.0 Hz), 7.81 (d, 1H, J=6.0 Hz), 8.38 (t, 1H, J=6.0 Hz). HRMS calcd. for C20H21N3O 319.1685 (M+), found 319.1682. Anal. (C20H21N3O.0.25 H2O) C, H, N.

reactant | 3-(1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-6-yl)-benzaldehyde | O=C1CNCC=2C=C(C=C3C=CN1C23)C=2C=C(C=O)C=CC2 | C18H14N2O2
reactant | dimethylamine | CNC | C2H7N
solvent | H2O | O | H2O
product | 6-(3-Dimethylaminomethyl-phenyl)-3,4-dihydro-2H-[1,4]diazepino[6,7,1-hi]indol-1-one | 87% yield | CN(C)CC=1C=C(C=CC1)C=1C=C2C=CN3C2=C(C1)CNCC3=O | C20H21N3O
